US08067419B2
In an inert atmosphere, N—[(S)-1-benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-N-(4-bromo-benzyl)-3-(4-trifluoromethyl-phenyl)-acrylamide (60 mg, 0.087 mmol) was dissolved in toluene (0.5 mL) followed by the addition of 3-pyridineboronic acid (11 mg, 0.087 mmol), 2M potassium carbonate solution (0.5 mL) and iso-propanol (0.5 mL). The mixture was degassed with argon for 5 min and heated to 100° C. followed by the addition of tetrakis-(triphenylphosphine)palladium (3 mg, 0.003 mmol). The mixture was stirred for 3 h at 110° C., cooled to rt again and water (1 mL) was added. The product was extracted with EtOAc (3×3 mL). The combined organic layers were evaporated to dryness and the residue was purified by prep. HPLC to give 21 mg (35%) of N—[(S)-1-benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-N-(4-pyridin-3-yl-benzyl)-3-(4-trifluoromethyl-phenyl)-acrylamide. LC-MS: tR=0.85 min; [M+H]+=689.68.

reactant | N—[(S)-1-benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-N-(4-bromo-benzyl)-3-(4-trifluoromethyl-phenyl)-acrylamide | 0.087 mmol, 60 mg | C(C1=CC=CC=C1)[C@@H](C(=O)N1CCN(CC1)CC1=CC=CC=C1)N(C(C=CC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)Br | C37H35BrF3N3O2
reactant | 3-pyridineboronic acid | 0.087 mmol, 11 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 2M, 0.5 mL | C([O-])([O-])=O.[K+].[K+]
reactant | iso-propanol | 0.5 mL | C(C)(C)O | C3H8O
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 mL | O | H2O
product | N—[(S)-1-benzyl-2-(4-benzyl-piperazin-1-yl)-2-oxo-ethyl]-N-(4-pyridin-3-yl-benzyl)-3-(4-trifluoromethyl-phenyl)-acrylamide | 21 mg, 35% | C(C1=CC=CC=C1)[C@@H](C(=O)N1CCN(CC1)CC1=CC=CC=C1)N(C(C=CC1=CC=C(C=C1)C(F)(F)F)=O)CC1=CC=C(C=C1)C=1C=NC=CC1 | C42H39F3N4O2
